US08492378B2
1-methyl-1-[5-[2-[[4-(methylthio)phenyl]amino]-4-pyridyl]-1,3,4-oxadiazol-2-yl]ethyl acetate
A solution of 1,1-dimethyl-2-[2-[2-[[4-(methylthio)phenyl]amino]isonicotinoyl]hydrazino]-2-oxoethyl acetate (624 mg, 1.55 mmol) and p-toluenesulfonyl chloride (888 mg, 4.66 mmol) in pyridine (15 mL) was stirred at 90-95° C. overnight. After cooling, the reaction mixture was concentrated under reduced pressure. The residue was diluted with ethyl acetate, washed with saturated aqueous sodium hydrogen carbonate solution and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (hexane/ethyl acetate=10/1-0/1) and recrystallized from hexane/ethyl acetate to give the title compound (240 mg, yield 40%) as yellow crystals.

reactant | 1,1-dimethyl-2-[2-[2-[[4-(methylthio)phenyl]amino]isonicotinoyl]hydrazino]-2-oxoethyl acetate | 1.55 mmol, 624 mg | C(C)(=O)OC(C(=O)NNC(C1=CC(=NC=C1)NC1=CC=C(C=C1)SC)=O)(C)C | C19H22N4O4S
reactant | p-toluenesulfonyl chloride | 4.66 mmol, 888 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 15 mL | N1=CC=CC=C1 | C5H5N
product | 1-methyl-1-[5-[2-[[4-(methylthio)phenyl]amino]-4-pyridyl]-1,3,4-oxadiazol-2-yl]ethyl acetate | 240 mg, yield 40% | C(C)(=O)OC(C)(C=1OC(=NN1)C1=CC(=NC=C1)NC1=CC=C(C=C1)SC)C | C19H20N4O3S
